US08053457B2
(4-Isopropyl-piperazin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 1-Isopropyl-piperazine and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=168.1; 1HNMR(DMSO-d6) 3.70 (s, 2H), 2.70-2.40 (m, 9H), 0.95 (d, 6H).

reactant | 1-Isopropyl-piperazine | C(C)(C)N1CCNCC1 | C7H16N2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Isopropyl-piperazin-1-yl)-acetonitrile | C(C)(C)N1CCN(CC1)CC#N | C9H17N3
